US07399759B2
2-(6-Methylsulfinylmethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one
2-(6-Methylthiomethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one (0.10 g, 0.33 mmol) was dissolved in chloroform (50 ml), and a solution of 3-chloroperbenzoic acid (ca. 77%, 0.075 g, 0.33 mmol) in chloroform (10 ml) was added dropwise thereto. The reaction mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was recrystallized from ethyl acetate to give the titled compound (0.052 g, 50%) as pale yellow crystals.

reactant | 2-(6-Methylthiomethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.33 mmol, 0.10 g | CSCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H12N2OS2
reactant | 3-chloroperbenzoic acid | 0.33 mmol, 0.075 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(6-Methylsulfinylmethyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.052 g, 50% | CS(=O)CC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H12N2O2S2
